US04324801
3-Hydroxy-4-carboethoxyphenylguanidine acetylsalicylate:
4.8 g of 3-hydroxy-4-carboethoxyphenylguanidine was suspended in 200 ml of chloroform, and 3.9 g of acetylsalicylic acid was added. The mixture was stirred at room temperature for 3 hours. After the reaction, the reaction mixture was cooled, and the resulting crystals were collected by filtration. The crystals were then recrystallized from a mixture of acetone and ligroin.

reactant | 3-hydroxy-4-carboethoxyphenylguanidine | 4.8 g | OC=1C=C(C=CC1C(=O)OCC)NC(=N)N | C10H13N3O3
reactant | acetylsalicylic acid | 3.9 g | C(C)(=O)OC=1C(C(=O)O)=CC=CC1 | C9H8O4
solvent | chloroform | 200 ml | C(Cl)(Cl)Cl | CHCl3
product | 3-Hydroxy-4-carboethoxyphenylguanidine acetylsalicylate | C(C)(=O)OC=1C(C(=O)O)=CC=CC1.OC=1C=C(C=CC1C(=O)OCC)NC(=N)N | InChI=1S/C10H13N3O3.C9H8O4/c1-2-16-9(15)7-4-3-6(5-8(7)14)13-10(11)12;1-6(10)13-8-5-3-2-4-7(8)9(11)12/h3-5,14H,2H2,1H3,(H4,11,12,13);2-5H,1H3,(H,11,12)
